US07642361B2
4-Cyano-5-isopropyl-3-(4-iodo-phenyl)-thiophene-2-carboxylic acid ethyl ester
Add dropwise isopropylzinc solution (ZnCl2 1M in Et2O (10.5 ml) and isopropylzinc 2M in THF (10.5 ml) previously mixed at 10° C. under N2 atmosphere) to a mechanically stirring suspension of 4-cyano-3-(4-iodo-phenyl)-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester (1.5 gr, 3.5 mmol) and 1,3-bis-(diphenylphosphino)propane nickel (II) chloride (380 mg, 0.71 mmol) in dry THF (35 ml) and heat the resulting mixture 60° C. for 1 hour. Cool the reaction to room temperature and remove solvents in vacuo. Purify the solid by chromatography on silica gel (eluting with 10-80% Ethyl acetate/hexane) to provide the title compound in 25% yield: Mass spectrum (EI+): m/z 426 (M++1).

reactant | 4-cyano-3-(4-iodo-phenyl)-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester | 3.5 mmol, 1.5 gr | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)I)C#N)SC | C15H12INO2S2
reactant | isopropylzinc | 2M | C(C)(C)[Zn]
solvent | Et2O | 10.5 ml | CCOCC | C4H10O
solvent | THF | 10.5 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 1M | [Cl-].[Cl-].[Zn+2]
catalyst | 1,3-bis-(diphenylphosphino)propane nickel (II) chloride | 0.71 mmol, 380 mg | [Ni](Cl)Cl.C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
product | 4-Cyano-5-isopropyl-3-(4-iodo-phenyl)-thiophene-2-carboxylic acid ethyl ester | 25% yield | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)I)C#N)C(C)C | C17H16INO2S
